US05229386
2-Aminomethyl-4,5-bis(4-methoxyphenyl)thiazole hydrochloride (1.20 g) was added to a mixture of dichloromethane and saturated aqueous sodium hydrogencarbonate, and was extracted with dichloromethane. The separated organic layer was washed with water, and brine, and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and resulting residue was dissolved in dimethylformamide (25 ml). To the reaction mixture was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.71 g) and 3-(tert-butyloxycarbonyl)-4-thiazolidinylcarboxylic acid (0.77 g), and stirred at ambient temperature for 2 hours. The mixture was poured into water, and extracted with ethyl acetate. The separated organic layer was washed with saturated aqueous sodium hydrogencarbonate, water, and brine, and dried over magnesium sulfate and treated with activated charcoal. After filtration, the filtrate was evaporated in vacuo. The residue was subjected to column chromatography on silica gel (50 g) and eluted with a mixture of methanol and chloroform. The fractions containing the object compound were combined and evaporated in vacuo. The resulting residue (oil-compound) (1.10 g) was dissolved with dichloromethane (20 ml), and stirred at 2° C. To the reaction mixture was added 1,4-dioxan solution of 4N hydrogen chloride (10 ml), and stirred at ambient temperature for 1 hour. The resulting residue was evaporated in vacuo. The residue was added iso-propyl ether (50 ml) and stirred at 2° C. for 3 hours. The resulting precipitate was collected by filtration and washed with iso-propyl ether, to give 4,5-bis(4-methoxyphenyl)-2-(4-thiazolidinylcarbonylaminomethyl)thiazole hydrochloride (0.45 g).

reactant | 2-Aminomethyl-4,5-bis(4-methoxyphenyl)thiazole hydrochloride | 1.20 g | Cl.NCC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.71 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-(tert-butyloxycarbonyl)-4-thiazolidinylcarboxylic acid | 0.77 g | C(C)(C)(C)OC(=O)N1CSCC1C(=O)O | C9H15NO4S
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4,5-bis(4-methoxyphenyl)-2-(4-thiazolidinylcarbonylaminomethyl)thiazole hydrochloride | 0.45 g | Cl.COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)CNC(=O)C1NCSC1 | InChI=1S/C22H23N3O3S2.ClH/c1-27-16-7-3-14(4-8-16)20-21(15-5-9-17(28-2)10-6-15)30-19(25-20)11-23-22(26)18-12-29-13-24-18;/h3-10,18,24H,11-13H2,1-2H3,(H,23,26);1H
